* c:\Users\Administrador\Documents\TC1\tp4\TP-TC1\mc_output\transitorio_46.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(0 10 0 1n 1n 100u 200u 10)
R1 N002 N001 48.2659
C1 N002 P001 1.75045e-07
R2 P001 0 8.21583
L1 N002 P002 1m Rser=0
R3 P002 0 6.49356
.tran 300u
.backanno
.end
